US06562978B1
Ethyl 1-(N,N-Dimethylcarbamoyl)-4-piperidinecarboxylate
Ethyl isonipecotate (31.44 g, 200 mmol) and triethylamine (50.2 ml, 360 mmol) were dissolved in dichloromethane (200 ml), and under ice cooling, to the solution was added dropwise N,N-dimethylcarbamoyl chloride (27.6 ml, 300 mmol). The mixture was stirred for 18 hours while the temperature was elevating to room temperature. To the reaction mixture was added water (100 ml) under ice cooling, and the organic layer was taken by separatory funnel. The aqueous layer was extracted with dichloromethane (50 ml×2), and the extracts were mixed with the organic layer. The combined organic layer was washed with 1N-hydrochloric acid (100 ml×3) dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the titled compound (51.30 g, it was proved that N,N-dimethyl carbamoyl chloride is contained about 10 wt % by 1H NMR.) as a pale brown oily substance.

reactant | Ethyl isonipecotate | 200 mmol, 31.44 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 360 mmol, 50.2 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoyl chloride | 300 mmol, 27.6 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl 1-(N,N-Dimethylcarbamoyl)-4-piperidinecarboxylate | CN(C(=O)N1CCC(CC1)C(=O)OCC)C | C11H20N2O3
